US09079866B2
5-{3-Fluoro-2′-[(4-methylpiperazin-1-yl)sulfonyl]-4′-(trifluoromethyl)biphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 1-((2-bromo-5-(trifluoromethyl)phenyl)sulfonyl)-4-methylpiperazine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C22H21F4N5O2S, 495.14; m/z found, 496.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.63-8.61 (d, J=1.4, 2H), 8.40-8.37 (d, J=1.4, 1H), 8.10-8.05 (m, 1H), 7.70-7.67 (d, J=8.0, 1H), 7.67-7.63 (m, 1H), 7.46-7.30 (m, 2H), 2.86 (s, 3H), 3.83-2.53 (br m, 8H).

reactant | 1-((2-bromo-5-(trifluoromethyl)phenyl)sulfonyl)-4-methylpiperazine | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CCN(CC1)C | C12H14BrF3N2O2S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{3-Fluoro-2′-[(4-methylpiperazin-1-yl)sulfonyl]-4′-(trifluoromethyl)biphenyl-4-yl}pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CCN(CC1)C | C22H21F4N5O2S
